US07105554B2
3-Hydroxy-4-(phenylmethoxy)benzaldehyde
Benzyl bromide (9 mL, 0.073 mol, 1.05 eq) was added to a stirred solution of 3,4-dihydroxybenzaldehyde (10 g, 0.07 mol, 1 eq), tetra-n-butylammonium iodide (29.4 g, 0.077 mol, 1.1 eq) and cesium carbonate (24.8 g, 0.073 mol, 1.05 eq) in N,N-dimethylformamide (200 mL). The reaction mixture was stirred overnight, and then concentrated in vacuo. The residual solution was diluted with ethyl acetate (200 mL) and washed with water (2×200 mL). The organic solution was then extracted with 0.5M aqueous sodium hydroxide (5×200 mL), and the basic extracts combined and washed with ethyl acetate (400 mL), then acidified to pH 1 with concentrated HCl and back extracted with ethyl acetate (2×300 mL). The organic extracts were combined, washed with brine (200 mL), dried over sodium sulfate and evaporated in vacuo. This gave a gummy solid, which was recrystallized from ethyl acetate and petroleum ether to give the product as a brown powder (8.4 g, 51%). 1H NMR (CDCl3) δ 9.84 (s, 1H, O═C—H), 5.84 (s, 1H, OH), 5.21 (s, 2H, CH2Ph).

reactant | Benzyl bromide | 0.073 mol, 9 mL, 1.05 eq | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 3,4-dihydroxybenzaldehyde | 0.07 mol, 10 g, 1 eq | OC=1C=C(C=O)C=CC1O | C7H6O3
reactant | cesium carbonate | 0.073 mol, 24.8 g, 1.05 eq | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | tetra-n-butylammonium iodide | 0.077 mol, 29.4 g, 1.1 eq | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | 3-Hydroxy-4-(phenylmethoxy)benzaldehyde | 8.4 g, 51% | OC=1C=C(C=O)C=CC1OCC1=CC=CC=C1 | C14H12O3
